US07217722B2
N-Cyclohexyl-N-(1H-5-indazolyl)amine
Cyclohexanone (59 mg), 5-aminoindazole (67 mg), and acetic acid (0.02 ml) were dissolved in methanol (1 ml), and a borane-pyridine complex (0.06 ml) was added dropwise to the solution at room temperature. The reaction mixture was stirred at room temperature for 18 hr. A saturated aqueous sodium hydrogencarbonate solution (1 ml) was then added thereto, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC [chloroform/methanol] to give the title compound (94 mg, yield 87%).

reactant | Cyclohexanone | 59 mg | C1(CCCCC1)=O | C6H10O
reactant | 5-aminoindazole | 67 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | N-Cyclohexyl-N-(1H-5-indazolyl)amine | 94 mg, yield 87% | C1(CCCCC1)NC=1C=C2C=NNC2=CC1 | C13H17N3
